US09085583B2
To a mixed solution of methanol and water (4 mL), ethyl 2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxylate (300 mg, 0.98 mmol) and potassium hydroxide (546 mg, 9.76 mmol) was added. The mixture was refluxed with stirring for 4 hours. The reaction mixture was concentrated to give a residue. To the residue, water (10 mL) was added and the mixture was extracted with dichloromethane (20 mL×3). The organic phase was concentrated to give crude product 2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxylic acid (150 mg). LRMS (M−H)− m/z: calcd 279.13. found 279.

reactant | methanol | CO | CH4O
reactant | ethyl 2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxylate | 0.98 mmol, 300 mg | CC=1N(C2=CC=CC=C2C1C(=O)OCC)C(C)C1=CC=CC=C1 | C20H21NO2
reactant | potassium hydroxide | 9.76 mmol, 546 mg | [OH-].[K+]
solvent | water | 10 mL | O | H2O
solvent | water | 4 mL | O | H2O
product | 2-methyl-1-(1-phenylethyl)-1H-indole-3-carboxylic acid | 150 mg | CC=1N(C2=CC=CC=C2C1C(=O)O)C(C)C1=CC=CC=C1 | C18H17NO2
